US07807709B2
a. 4-Methoxy-3-(4-methoxy-butyl)-benzaldehyde
To a solution of 4-bromo-1-methoxy-2-(4-methoxy-butyl)-benzene (8.10 g, 29.7 mmol; described in EP0678 503 B1) in absolute THF (170 mL), cooled to −78° C., is added dropwise over 30 min and under an argon atmosphere a 1.6M solution of n-butyllithium in hexane (20.4 mL, 32.6 mmol). After stirring for 5 min, a mixture of DMF (5.03 mL, 65.2 mmol) in THF (20 mL) is added over 30 min at −78° C. Stirring is continued over 15 min at −78° C., and the reaction mixture is gradually warmed and stirred for an additional hour at room temperature before quenching with 1N HCl. The aqueous layer is extracted with diethyl ether (3×200 mL), the combined organics are dried (Na2SO4) and concentrated. Purification by flash chromatography on silica gel (hexane/AcOEt 4:1) gives the title compound as yellowish oil. TLC, Rf (hexane/AcOEt 4:1)=0.27. MS: 223.2 [M+H]+. 1H-NMR (CDCl3): δ 1.6-1.74 (m, 4H) 2.70 (t, 2H), 3.37 (s, 3H), 3.43 (t, 2H), 3.96 (s, 3H), 6.99 (dd, 1H), 7.73 (d, 1H), 7.76 (dd, 1H), 9.70 (s, 1H) ppm.

reactant | 4-bromo-1-methoxy-2-(4-methoxy-butyl)-benzene | BrC1=CC(=C(C=C1)OC)CCCCOC | C12H17BrO2
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 32.6 mmol, 20.4 mL | CCCCCC | C6H14
reactant | DMF | 65.2 mmol, 5.03 mL | CN(C)C=O | C3H7NO
solvent | THF | 170 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-Methoxy-3-(4-methoxy-butyl)-benzaldehyde | COC1=C(C=C(C=O)C=C1)CCCCOC | C13H18O3
